Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([H:3])[C@@:10]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]1([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-0.200863310581
[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3].[O:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],5.10903123504
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:11]([H:12])([H:13])[H:14],1.26072302198
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.4078754216800001
[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],3.9590802064
[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.61791812037
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:4],4.79482344368
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.69839522055
[H:1][O:2][C:3]#[C:4]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:5]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-2.35447681229
[H:1][O:2][C:3]#[C:4][C:5]#[C:6][O:7][H:8]>>[C:5]#[C:6][O:7][H:8].[H:1][O:2][C:3]#[C:4],6.6972135139
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-1.7468843975
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],1.7453163933000002
[H:5].[O:1]=[C:2]([C:3]#[C:4])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[H:9],-5.9323968030800005
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.6821040498100002
[H:6].[O:1]=[C:2]=[C:3][O:4][C:5][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.81392211254
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10],4.603432516
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],-5.57376975196
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.61165362867
[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.22903557
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.23152432996
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.69248522519
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7]([H:8])[O:9][H:10]>>[C:1]#[C:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](\[H:8])[O:9][H:10],-2.74028520031
[C:1]#[C:2][C:3](=[O:4])[O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.75320927863
[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.49409627622
[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]=[C:9]([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11],-2.50251936917
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13],3.14599729118
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.04947853502
[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.676571936
